US07297707B2
N-Benzothiazol-2-yl-2-chloro-N-(4-chloro-phenyl)-benzamide
A mixture of 39.1 mg (0.15 mmol) Benzothiazol-2-yl-(4-chloro-phenyl)-amine in 0.5 ml THF, 45.2 mg (0.18 mmol) 2-chlorobenzoyl chloride in 0.18 ml THF and 0.17 ml of a 1 M solution of KOtBu in THF was heated to 50° C. for 16 h. After addition of 0.5 ml formic acid the mixtures are subjected to preparative HPLC separation on reversed phase eluting with an acetonitrile/water gradient. Evaporation of the product fractions yielded 40.1 mg (67%) of the title compound. MS (m/e): 399.3 (MH+, 100%).

reactant | Benzothiazol-2-yl-(4-chloro-phenyl)-amine | 0.15 mmol, 39.1 mg | S1C(=NC2=C1C=CC=C2)NC2=CC=C(C=C2)Cl | C13H9ClN2S
reactant | 2-chlorobenzoyl chloride | 0.18 mmol, 45.2 mg | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
reactant | KOtBu | CC(C)(C)[O-].[K+]
reactant | formic acid | 0.5 ml | C(=O)O | CH2O2
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
solvent | THF | 0.18 ml | C1CCOC1 | C4H8O
product | N-Benzothiazol-2-yl-2-chloro-N-(4-chloro-phenyl)-benzamide | 40.1 mg, 67% | S1C(=NC2=C1C=CC=C2)N(C(C2=C(C=CC=C2)Cl)=O)C2=CC=C(C=C2)Cl | C20H12Cl2N2OS
